US04251092
To a stirred mixture containing 7.4 g. of phthalic anhydride and 16.0 g. of 1-butyl-2-methylindole at 0°-5° C. was added portionwise 13.3 g. of aluminum chloride. The mixture was diluted with 50 ml. of benzene and stirred overnight at room temperature. The reaction mixture was poured into 200 ml of 5% hydrochloric acid and the product extracted with benzene. The benzene extracts were shaken with dilute aqueous potassium hydroxide. The aqueous alkaline layer was separated, cooled with ice and brought to pH 4 with acetic acid. The precipitated product was collected and dried to give 2-(1-butyl-2-methyl-3-indolylcarbonyl)benzoic acid, m.p. 88°-92° C.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 1-butyl-2-methylindole | C(CCC)N1C(=CC2=CC=CC=C12)C | C13H17N
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(1-butyl-2-methyl-3-indolylcarbonyl)benzoic acid | C(CCC)N1C(=C(C2=CC=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1)C | C21H21NO3
